US08686007B2
[(2S)-2-(4-Fluorophenyl)propyl]{3-[(3-methoxyphenyl)methyl](1,2,4-thiadiazol-5-yl)}amine.
To a solution of (S)-2-(4-fluorophenyl)propan-1-amine (96 mg, 0.62 mmol, 1.5 equiv) and 5-chloro-3-(3-methoxybenzyl)-1,2,4-thiadiazole (100 mg, 0.42 mmol, 1.0 equiv) in NMP (0.8 mL) in a microwavable vial was added K2CO3 (230 mg, 1.68 mmol, 4.0 equiv). The mixture was heated by microwave for 15 minutes at 180° C. and then allowed to cool to room temperature. Purification by silica gel across a gradient of 10-30% EtOAc/Hexanes provided the title compound (126 mg, 84%). m/z=358.0 [M+H]+.

reactant | (S)-2-(4-fluorophenyl)propan-1-amine | 0.62 mmol, 96 mg, 1.5 equiv | FC1=CC=C(C=C1)[C@@H](CN)C | C9H12FN
reactant | 5-chloro-3-(3-methoxybenzyl)-1,2,4-thiadiazole | 0.42 mmol, 100 mg, 1.0 equiv | ClC1=NC(=NS1)CC1=CC(=CC=C1)OC | C10H9ClN2OS
reactant | K2CO3 | 1.68 mmol, 230 mg, 4.0 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 0.8 mL | CN1CCCC1=O | C5H9NO
product | [(2S)-2-(4-Fluorophenyl)propyl]{3-[(3-methoxyphenyl)methyl](1,2,4-thiadiazol-5-yl)}amine | 126 mg, 84% | FC1=CC=C(C=C1)[C@@H](CNC1=NC(=NS1)CC1=CC(=CC=C1)OC)C | C19H20FN3OS
